US07667041B2
Synthesis of (E)-5-chloro-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]valeric acid ((1S)-1-(4-fluorophenyl)ethyl)amide
To a DMF (50 mL) solution of 5-chloro-2-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)valeric acid trifluoroacetic acid salt (8.00 g) and (S)-1-(4-fluorophenyl)ethylamine (2.60 g), IPEA (12.4 mL), EDC (6.82 g) and HOBT (4.81 g) were added one by one, and the reaction solution was agitated at room temperature overnight. After confirming disappearance of the starting materials, the solvent was concentrated under reduced pressure, water and ethyl acetate were added to the residue, and the organic layer was partitioned. After the organic layer was washed with a saturated saline solution, it was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The obtained residue was purified by silica gel chromatography (elution solvent:heptane-ethyl acetate=2:3→1:1→ethyl acetate), and 3.90 g of the title compound was obtained. The physical properties of the compound are as follows.

reactant | 5-chloro-2-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)valeric acid trifluoroacetic acid salt | 8.00 g | FC(C(=O)O)(F)F.ClCCCC(C(=O)O)=CC1=CC(=C(C=C1)N1C=NC(=C1)C)OC
reactant | (S)-1-(4-fluorophenyl)ethylamine | 2.60 g | FC1=CC=C(C=C1)[C@H](C)N | C8H10FN
reactant | IPEA | 12.4 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HOBT | 4.81 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | EDC | 6.82 g
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | (E)-5-chloro-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]valeric acid ((1S)-1-(4-fluorophenyl)ethyl)amide | 3.90 g | FC1=CC=C(C=C1)[C@H](C)NC(/C(/CCCCl)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O | C25H27ClFN3O2
